US05556853
In substantially the same manner as in Example 5, morpholine (257 μl) was condensed with Boc-p-chloro-L-phenylalanine (800 mg, manufactured by Bachem Fein Chemikalien AG, Switzerland) to give N-(Boc-p-chloro-L-phenylalanyl)morpholine (913 mg) as a colorless oily product (yield 93%). After Boc group elimination with 4N HCl/ethyl acetate, the product was condensed with (2S,3S)-ethyl hydrogen trans-epoxysuccinate (238 mg) as obtained in Reference Example 8 to yield the title compound (compound 67; mg) as a white powder (yield 58%).

reactant | morpholine | 257 μl | N1CCOCC1 | C4H9NO
reactant | Boc-p-chloro-L-phenylalanine | 800 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)Cl)C(=O)O | C14H18ClNO4
product | N-(Boc-p-chloro-L-phenylalanyl)morpholine | 913 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)Cl)C(=O)N1CCOCC1 | C18H25ClN2O4
